US06063782
1-Cyclohexylmethyl-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound was prepared as a white powder in 45.6% yield in a similar procedure to that described in Example 1 by using 7-chloro-1-cyclohexylmethyl-2,3-dimethylpyrrolo[2,3-d]pyridazine and 4-fluorobenzyl alcohol.

reactant | 7-chloro-1-cyclohexylmethyl-2,3-dimethylpyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CC2CCCCC2 | C15H20ClN3
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 1-Cyclohexylmethyl-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 45.6% yield | C1(CCCCC1)CN1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C)C | C22H26FN3O
